data/mechanism_extracts/OrgBiomolChem/10.1039_d0ob00629g.json
{"doi": "10.1039_d0ob00629g", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxyselenocyclization of 1-allylnaphthalen-2-ols and allylphenols with diaryl diselenides to give selenylated dihydrofurans.", "mechanism_family": ["radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (PhSeSePh) to a selenium-centered radical cation/PhSe radical; cathode reduces protons to H2.", "key_intermediates": [{"name": "PhSeSePh radical cation (A)", "smiles": null, "role": "transient"}, {"name": "PhSe radical (B)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "PhSe cation (C)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical adduct on alkene (D)", "smiles": null, "role": "transient"}, {"name": "benzylic/naphthyl cation after anodic oxidation of D (E)", "smiles": null, "role": "reactive"}, {"name": "seleniranium ion (F)", "smiles": null, "role": "reactive"}], "electron_flow": "Anodic oxidation of PhSeSePh gives a Se-centered radical cation that fragments into PhSe• (Pathway I) or PhSe+ (Pathway II); the radical adds to the allyl alkene to form a C-radical that is further oxidized at the anode to a cation, which is trapped by the pendant naphthol OH (Pathway I); alternatively the PhSe+ forms a seleniranium that is opened by the phenol; protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3.0 equiv TEMPO completely inhibits the reaction, supporting a radical pathway (Pathway I)."}, {"name": "PhSeBr (with electrolyte, no current)", "smiles": "[Se](Br)c1ccccc1", "purpose": "intermediate_trap", "observation": "Affords 3a in 86% yield without electricity, supporting a PhSe+/seleniranium pathway (Pathway II)."}, {"name": "PhSeBr (no current, no nBu4NClO4)", "smiles": "[Se](Br)c1ccccc1", "purpose": "intermediate_trap", "observation": "Still gives 3a in 45%, consistent with electrophilic Se+ intermediate."}, {"name": "Ar atmosphere control", "smiles": null, "purpose": "other", "observation": "Under Ar with standard conditions, 3a obtained in 45% (vs 64% in air), indicating air/O2 plays a role but reaction still proceeds."}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors propose two parallel pathways: Pathway I (favored, radical) via anodic generation of PhSe•, alkene addition, second anodic oxidation to cation E, then intramolecular O-attack and deprotonation; Pathway II (cannot be ruled out) via PhSe+ cation forming a seleniranium F opened by the phenol. CV showed Epa = 1.63 V for 2a and 1.77 V for 1a (vs NHE), indicating diselenide is oxidized first. Gram-scale (6 mmol) gives 64% of 3a."}
